US07605168B2
Preparation of 5-(1-Benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methoxy-phenol 141
Into a Parr pressure reactor 1-Benzenesulfonyl-3-(3-benzyloxy-4-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine (92 mg, 0.00020 mol) was placed with Palladium (50 mg, 0.00005 mol) 10%, tetrahydrofuran (15 mL, 0.18 mol) and Methanol (1 mL, 0.02 mol) and HCl solution (3 mL, 0.04 mol). The reaction was shaken under an atmosphere of hydrogen at 50 psi for 4 hours. The mixture reaction was filtered through Celite™ and concentrated under reduced pressure. The residue was purified by preparative TLC (ethyl acetate/hexanes 1:1) to give 31 mg of the titled product. MS(ESI) [M+H+]+=381.11.

reactant | 1-Benzenesulfonyl-3-(3-benzyloxy-4-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridine | 0.00020 mol, 92 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=2C1=NC=CC2)C2=CC(=C(C=C2)OC)OCC2=CC=CC=C2 | C27H22N2O4S
reactant | tetrahydrofuran | 0.18 mol, 15 mL | O1CCCC1 | C4H8O
reactant | Methanol | 0.02 mol, 1 mL | CO | CH4O
reactant | HCl | 0.04 mol, 3 mL | Cl | ClH
catalyst | Palladium | 0.00005 mol, 50 mg | [Pd] | Pd
product | 5-(1-Benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-methoxy-phenol | 31 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=2C1=NC=CC2)C=2C=CC(=C(C2)O)OC | C20H16N2O4S
